US06949542B2
(4-Chloro-2-{3-[3-(2,6-dimethyl-pyridin-4-yl)-phenyl]-3-oxo-propionylamino}-5-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester
The title compound was prepared from (2-amino-4-chloro-5-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example J24) (311 mg, 1.0 mmol) and 3-[3-(2,6-dimethyl-pyridin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester (Example K15) (325 mg, 1.0 mmol) according to the general procedure M. Obtained as a light yellow oil (356 mg, 63%).

reactant | (2-amino-4-chloro-5-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 1.0 mmol, 311 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C(F)(F)F)Cl)N)=O | C12H14ClF3N2O2
reactant | 3-[3-(2,6-dimethyl-pyridin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | 1.0 mmol, 325 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=CC(=NC(=C1)C)C)=O | C20H23NO3
product | (4-Chloro-2-{3-[3-(2,6-dimethyl-pyridin-4-yl)-phenyl]-3-oxo-propionylamino}-5-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C(F)(F)F)Cl)NC(CC(=O)C1=CC(=CC=C1)C1=CC(=NC(=C1)C)C)=O)=O | C28H27ClF3N3O4
